US05077409
5-Methyl-3-[[3-[[[4-(tetradecyloxy)phenyl]acetyl]amino]phenyl]methyl]thiazolium bromide
A mixture of 3.6 g of N-[3-(bromomethyl)phenyl]-4-(tetradecyloxy)benzeneacetamide and 3.46 g of 5-methylthiazole in 25 ml of toluene is refluxed under inert gas for 1.5 hours, cooled and poured into 200 ml of ether. The organic layer is decanted and the solid washed with ether and collected to give 3.8 g of the desired product as a white solid, m.p. 173°-175° C.

reactant | N-[3-(bromomethyl)phenyl]-4-(tetradecyloxy)benzeneacetamide | 3.6 g | BrCC=1C=C(C=CC1)NC(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | C29H42BrNO2
reactant | 5-methylthiazole | 3.46 g | CC1=CN=CS1 | C4H5NS
reactant | ether | 200 ml | CCOCC | C4H10O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Methyl-3-[[3-[[[4-(tetradecyloxy)phenyl]acetyl]amino]phenyl]methyl]thiazolium bromide | 3.8 g | [Br-].CC1=C[N+](=CS1)CC1=CC(=CC=C1)NC(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | InChI=1S/C33H46N2O2S.BrH/c1-3-4-5-6-7-8-9-10-11-12-13-14-22-37-32-20-18-29(19-21-32)24-33(36)34-31-17-15-16-30(23-31)26-35-25-28(2)38-27-35;/h15-21,23,25,27H,3-14,22,24,26H2,1-2H3;1H
